US05334723
10.4 g (87 mmol) of L-homoserine and 7.34 g of NaHCO3 were dissolved in 50 ml of H20 and 75 ml of dioxane. After adding 21 g of di-t-butyl dicarbonate (Boc2O), the mixture was stirred at room temperature for 16 hours. Then the reaction mixture was completely concentrated to dryness and the residue was pulverized with ether. The resulting powder was dissolved in 60 ml of dimethylformamide (DMF) and 12.3 ml of dimethylsulfuric acid was added under ice-cooling. Then the mixture was stirred at the same temperature for 2 hours. The reaction mixture was added to a mixture of 100 ml of ice-cooled aqueous solution of sodium chloride and 100 ml of ethyl acetate and extracted with ethyl acetate thrice. The organic layers were combined and washed with saturated aqueous solution of sodium chloride. After drying over MgSO4 and concentrating under reduced pressure, N-Boc-L-homoserine was obtained.

reactant | L-homoserine | 87 mmol, 10.4 g | N[C@@H](CCO)C(=O)O | C4H9NO3
reactant | NaHCO3 | 7.34 g | C(=O)(O)[O-].[Na+]
reactant | di-t-butyl dicarbonate | 21 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 75 ml | O1CCOCC1 | C4H8O2
product | N-Boc-L-homoserine | C(=O)(OC(C)(C)C)N[C@@H](CCO)C(=O)O | C9H17NO5
